US09085576B2
Synthesis of 5-isopropoxypyrazine-2-carboxylic acid
To a rt solution of sodium t-butoxide (1.41 g, 14.67 mmol) in THF (20 mL) was added 2-propanol (1.250 mL, 16.33 mmol) dropwise. After 10 min a solution of methyl 5-chloro-2-pyrazinecarboxylate (1.70 g, 9.85 mmol, Ark Pharm) in THF (10 mL) was added dropwise. After 1.5 h, the reaction was quenched with saturated aq NH4Cl and extracted with EtOAc (3×). The aqueous layer was concentrated under reduced pressure and the resulting solid was treated with aqueous HCl. The solution was extracted with DCM (3×) and the combined organic layers were purified by flash chromatography, eluting with 0.5% TFA in iPrOH:CH2Cl2 (0:1→1:9) to give a white crystalline solid. (497 mg, 2.7 mmol, 28%). MS m/z=183 [M+H]+. Calculated for C8H10N2O3: 182.

reactant | sodium t-butoxide | 14.67 mmol, 1.41 g | CC(C)([O-])C.[Na+]
reactant | 2-propanol | 16.33 mmol, 1.250 mL | CC(C)O | C3H8O
reactant | methyl 5-chloro-2-pyrazinecarboxylate | 9.85 mmol, 1.70 g | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-isopropoxypyrazine-2-carboxylic acid | C(C)(C)OC=1N=CC(=NC1)C(=O)O | C8H10N2O3
